US04038414
4.2 g (0.015 mol) of 1-[2-methoxy-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane are heated with a solution of 1.3 ml (0.016 mol) of isopropylamine in 100 ml of isopropanol to 80° C. under reflux for 3 hours. The mixture is then evaporated in vacuo and the resulting crude base is crystallised from acetone-ether. 1-[2-Methoxy-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-isopropyl-aminopropane, of melting point 109°-111° C. is obtained.

reactant | 1-[2-methoxy-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2,3-epoxy-propane | 0.015 mol, 4.2 g | COC1=C(OCC2CO2)C=CC(=C1)C=CNC(=O)OC | C14H17NO5
reactant | isopropylamine | 0.016 mol, 1.3 ml | C(C)(C)N | C3H9N
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1-[2-Methoxy-4-(2-methoxycarbonylaminovinyl)-phenoxy]-2-hydroxy-3-isopropyl-aminopropane | COC1=C(OC(C(CC(C)C)O)N)C=CC(=C1)C=CNC(=O)OC | C17H26N2O5
